US06187905B1
A mixture of 360 mg (0.92 mmol) of 3(RS)-(tert-butoxyformamido)-5,5,5-trifluoro-2(RS)-hydroxy-2′,4′-dimethylvaleranilide and 424 mg (1 mmol) of 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one in 10 ml of dichloromethane was stirred under a nitrogen atmosphere for 1 hour. The solution was extracted with a solution of 2.5 g of sodium thiosulphate in 10 ml of saturated sodium bicarbonate solution, then dried over anhydrous magnesium sulphate, filtered and evaporated to dryness. The residue was chromatographed on silica gel using 25% ethyl acetate in petroleum ether for the elution. The solid obtained was triturated with petroleum ether to give 222 mg of 3(RS)-(tert-butoxyformamido)-5,5,5-trifluoro-2′,4′-dimethyl-2-oxovaleranilide as a white solid, 1H NMR (250 MHz, CDCl3) δ:1.4 (s,9H), 2.25 (s,3H), 2.3 (s,3H), 2.8-3.1 (m,2H), 5.2-5.3 (m,1H), 5.4-5.5 (d,1H), 7.0-7.1 (m,2H), 7.7-7.8 (d,1H), 8.4-8.5 (br.s,1H).

reactant | 3(RS)-(tert-butoxyformamido)-5,5,5-trifluoro-2(RS)-hydroxy-2′,4′-dimethylvaleranilide | 0.92 mmol, 360 mg | C(C)(C)(C)OC(=O)NC(C(C(=O)NC1=C(C=C(C=C1)C)C)O)CC(F)(F)F | C18H25F3N2O4
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 1 mmol, 424 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3(RS)-(tert-butoxyformamido)-5,5,5-trifluoro-2′,4′-dimethyl-2-oxovaleranilide | 222 mg | C(C)(C)(C)OC(=O)NC(C(C(=O)NC1=C(C=C(C=C1)C)C)=O)CC(F)(F)F | C18H23F3N2O4
